US06867198B2
3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-[1-(4-hydroxybutyl)-1H-indol-3-yl]pyrrole-2,5-dione
Beginning with 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide and 1-(4-hydroxybutyl)indole-3-glyoxylic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide | C1(=CN2CCCC3=CC=CC1=C23)CC(=O)N | C13H14N2O
reactant | 1-(4-hydroxybutyl)indole-3-glyoxylic acid methyl ester | COC(C(=O)C1=CN(C2=CC=CC=C12)CCCCO)=O | C15H17NO4
product | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-[1-(4-hydroxybutyl)-1H-indol-3-yl]pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CN(C3=CC=CC=C23)CCCCO)=O)=O | C27H25N3O3
